US06498170B2
5-[4-(4-Oxo-piperidine-1-sulfonyl)-benzyl]-thiazolidine-2,4-dione
The title compound was prepared from 4-(2,4-dioxo-thiazolidin-5-ylmethyl)-benzene-sulfonylchloride (J. Med. Chem. 1992, 35, 1853) and 4-piperidone monohydrate hydrochloride according to the procedure of Intermediate 22 as a white solid; 1H NMR (300 MHz, DMSO-d6) □ 2.40-2.50 (m, 4 H), 3.20-3.40 (m, 5 H), 3.50 (dd, J=14.1, 4.7 Hz, 1 H), 5.00 (dd, J=10.4, 4.7 Hz, 1 H), 7.56 (d, J=8.4 Hz, 2 H), 7.76 (d, J=8.4 Hz, 2 H), 12.09 (s, 1 H); MS (ES) m/z: 368.9 (M++H); HRMS Calcd. for C15H16N2O5S2(M++H): 368.0501. Found: 368.0481. Anal. Calcd. for C15H16N2O5S2: C, 48.90; H, 4.38; N, 7.60. Found: C,48.63; H, 4.35; N, 7.38.

reactant | 4-(2,4-dioxo-thiazolidin-5-ylmethyl)-benzene-sulfonylchloride | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)S(=O)(=O)Cl | C10H8ClNO4S2
reactant | 4-piperidone monohydrate hydrochloride | Cl.O.N1CCC(CC1)=O
product | 5-[4-(4-Oxo-piperidine-1-sulfonyl)-benzyl]-thiazolidine-2,4-dione | O=C1CCN(CC1)S(=O)(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C15H16N2O5S2
